Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man who presented with mantle cell 
lymphoma in ___, now s/p multiple regimens of chemo, most 
recently R-EPOCH (last cycle ___, now w/ relapsed 
disease, admitted from clinic for abdominal pain. Describes 
ongoing abdominal pain in the mid-epigastric area, worsening 
acutely overnight, w/ nausea, no vomiting. He takes 10mg of 
oxycodone Q6H prn pain, today w/o relief. Fatigued, not taking 
good PO, c/o night sweats, LN in occipital area.  Of note, he is 
declining further standard chemo, and is trying to get enrolled 
into a phase II study.  

 
Past Medical History:
# Mantle Cell Lymphoma:
- First developed mantle cell lymphoma in ___, with extensive 
retroperitoneal, mesenteric, axillary, and left hilar 
lymphadenopathy, as well as colonic intussusception with 
increased thickness of the colonic wall, and bone marrow 
involvement, prompting dose-dense R-CHOP x6 at that time, 
concluding ___. He was monitored with serial imaging until 
___, at which time multiple new FDG-avid sites, particularly in 
the submandibular, cervical, and supraclavicular chains, were 
found with disease recurrence below the diaphragm, with biopsy 
of the lymphoid mass in the left submandibular triangle 
demonstrating mantle cell lymphoma, blastoid variant, with MIB 
as high as 80% and p53 positivity. 
- In place of cytoreduction followed by non-myeloablative 
allogeneic stem cell transplant, he elected to enroll in a trial 
of Velcade and Revlimid at ___, completing 5 cycles prior to 
withdrawal due to several adverse effects (peripheral 
neuropathy, weight loss, nausea, gastritis), with partial 
response. 
- PET-CT in ___ revealed increased retroperitoneal and 
mesenteric lymphadenopathy with associated rise in creatinine, 
he was treated with Bendamustine/Rituxan x5, beginning in ___. 
Although colonoscopy in ___ revealed mantle cell lymphomatous 
involvement, he opted for continued surveillance at that time. 
- In ___, he developed fatigue, fevers, and abdominal pain in 
the setting of cytopenias and rising LDH, prompting 
Bendamustine/Rituxan after x5. 
- CT abdomen/pelvis on ___ revealed progression of his 
disease. He was admitted ___ for EPOCH therapy.

# Hypertension
# Chronic kidney injury
# Erectile Dysfunction
 
Social History:
___
Family History:
Mother died of pneumonia, had prior CVAs. Father with possible 
stomach problems.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS - T 98, BP 130/48, HR 91, RR 16, O2 96 RA  
GENERAL - Fatigued appearing older man, appears mildly 
uncomfortable, lying propped up on hospital bed.  
HEENT - NC/AT, 7-8 cm diameter soft, raised mass at base of neck 
(lipoma per pt), EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - RRR, no murmurs, rubs or gallops  
ABDOMEN - Soft, diffusely tender, no rebound/guarding, ?multiple 
abd masses  
EXTREMITIES - WWP, no c/c/e, 2+ DP pulses  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout

DISCHARGE PHYSICAL EXAM:  
VITALS - T 97.4 (AF), BP 126/60 (110-150/50-60), HR 84 
(80-100s), RR 16, O2 95 RA  
GENERAL - Lying in bed, NAD  
HEENT - NC/AT, 7-8 cm diameter soft, raised mass at base of 
neck, EOMI, sclerae anicteric, MMM, OP clear  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - RRR, no murmurs, rubs or gallops  
ABDOMEN - Soft, diffusely tender, no rebound/guarding, ?multiple 
abd masses  
EXTREMITIES - WWP, no c/c/e, 2+ DP pulses  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout 

 
Pertinent Results:
ADMISSION LABS
___ 02:05PM BLOOD WBC-7.9 RBC-2.96* Hgb-9.6* Hct-27.6* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-16.3* Plt ___
___ 02:05PM BLOOD Neuts-85.0* Lymphs-7.7* Monos-5.9 Eos-0.9 
Baso-0.5
___ 08:30AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear Dr-1+
___ 08:30AM BLOOD ___ PTT-29.8 ___
___ 02:05PM BLOOD UreaN-23* Creat-1.6* Na-138 K-4.2 Cl-102 
HCO3-22 AnGap-18
___ 02:05PM BLOOD ALT-4 AST-23 LD(LDH)-485* AlkPhos-78 
TotBili-0.2
___ 08:30AM BLOOD Albumin-4.0 Calcium-9.1 Phos-2.6* Mg-1.8 
UricAcd-6.3

DISCHARGE LABS
___ 10:40AM BLOOD WBC-6.3 RBC-2.85* Hgb-9.1* Hct-26.7* 
MCV-94 MCH-32.0 MCHC-34.2 RDW-16.5* Plt ___
___ 10:40AM BLOOD Neuts-82* Bands-0 Lymphs-4* Monos-9 Eos-2 
Baso-0 Atyps-2* Metas-1* Myelos-0
___ 10:40AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear Dr-1+
___ 07:55AM BLOOD ___ PTT-27.4 ___
___ 08:10AM BLOOD Glucose-94 UreaN-12 Creat-1.5* Na-134 
K-4.1 Cl-102 HCO3-19* AnGap-17
___ 08:10AM BLOOD ALT-9 AST-29 LD(LDH)-579* AlkPhos-101 
TotBili-0.2
___ 08:10AM BLOOD Calcium-8.9 Phos-2.4* Mg-2.2

CT ABD PELVIS W/ CONTRAST ___
Limited view of the lung bases shows trace pleural effusions and 
mild 
bibasilar atelectasis, improved compared to prior study.  
Visualized heart and pericardium are unremarkable. An enlarged 1 
x 2.1 cm epipherenic lymph node has increased in size compared 
to the prior study.  
  
CT of the abdomen with IV contrast: 
Two hypodensities within segments ___ and ___ of the liver 
measuring 0.9 x 0.9 cm and 0.8 x 1.1 cm are new compared to the 
prior study.  A stable  simple cyst is again seen within segment 
VI measuring 1.1 x 1.2 cm.  There is no intra or extrahepatic 
biliary dilatation.  The gallbladder appears distended but does 
not show wall thickening, stones or pericholecystic fluid.  
Spleen is normal size and homogeneous in echogenicity.  Pancreas 
does not show any focal lesions, ductal dilatation or 
peripancreatic stranding.  Adrenal glands are within normal 
limits.  Left and right kidneys enhance symmetrically and 
excrete contrast briskly with no evidence of cystic or solid 
masses or hydronephrosis. 

Stomach, duodenum, and loops of small bowel do not show wall 
thickening or signs of obstruction.  The colon is unremarkable. 
  
A large soft tissue mass measuring 20.1 (w) x 8.1 (AP) x 25 (CC) 
cm  extending along the mesentery from the root to the dome of 
the bladder appears larger, previously  18 x 5.5 x 22 cm.  The 
mass encases but does not occlude the superior mesenteric artery 
and vein).  There is also extensive para-aortic and aortocaval 
lymphadenopathy that is worse compared to the prior study. There 
is also prominent omental stranding suggestive of lymphatic 
obstruction.   
  
Extensive calcifications are seen throughout the length of the 
abdominal 
aorta, more prominently at the bifurcation with extension into 
the proximal iliacs.  There is no aneurysmal dilatation.  
Intra-abdominal vasculature including the hepatic portal vein, 
splenic vein, SMV, SMA and, and celiac axis are widely patent.  
New small ascites is seen surrounding the liver the spleen. 
  
CT of the pelvis with IV contrast: 
  
Bladder and terminal ureters are within normal limits.  Prostate 
and seminal vesicles are unremarkable. A right inginal node 
measures 3 x 3 cm, previously 1.7 x 2.5 cm. An enlarged right 
external iliac node appears unchanged. There is no free fluid 
within the pelvis. 
  
Bony structures do not show any suspicious lytic or sclerotic 
lesion.  
Multilevel degenerative changes are seen within the spleen.  
Wall and wall.  Bilateral inguinal hernias are noted. 
  
IMPRESSION: 
1. Epiphrenic, mesenteric, retroperitoneal and pelvic 
lymphadenopathy has 
progressed compared to the prior study.  
2. New hypodense lesions within segment IV of the liver and new 
ascites. 
3. Trace pleural effusions, improved. 

 
Brief Hospital Course:
___ man who presented with mantle cell lymphoma in ___, 
now s/p multiple regimens of chemo, most recently R-EPOCH (last 
cycle ___, now w/ relapsed disease, admitted from 
clinic for abdominal pain, likely ___ progression of disease.  

# Pain control. Pt declined oxycontin, as reports causes 
vomiting. Initially started on MS contin, but this also appeared 
to cause severe nausea. Pt's nausea controlled w/ zofran, and MS 
contin was discontinued. A fentanyl patch was initiated with 
good efficacy, few side effects, no drowsiness. ___ mg PO 
dilaudid given for breakthrough pain. Pt discharged with 
prescriptions for fentanyl patches and dilaudid, with an 
appointment to follow up with his outpatient oncologist. 

# Mantle cell lymphoma. Pt was initially declining chemotherapy 
as did not tolerate last cycle well. Is pursuing admission into 
a study, cannot have chemo within 3 weeks to be admitted and 
receive study drug. However, CT at admission showed progressive 
disease, extensive LA and enlarging mass in abdomen encasing 
vasculature. Progression likely pt's source of increased pain. 
Pt offered chemo as inpatient, but pt declined. Discharged home 
in stable condition, will decide next steps in consultation with 
his outpatient oncologists. 

# Code: Confirmed DNR/DNI  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Dronabinol 5 mg PO Q4H:PRN nausea 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
5. Senna 1 TAB PO BID 
6. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN back itching 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Dronabinol 5 mg PO Q4H:PRN nausea 
3. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN back itching 
4. Senna 1 TAB PO BID 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
6. Fentanyl Patch 25 mcg/h TP Q72H 
RX *fentanyl 25 mcg/hour apply one patch to skin Every three 
days Disp #*10 Transdermal Patch Refills:*0
7. HYDROmorphone (Dilaudid) 4 mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 3 hours Disp 
#*100 Tablet Refills:*0
8. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
RX *magnesium hydroxide [Milk of Magnesia] 400 mg/5 mL 5 mL by 
mouth every six (6) hours Disp #*1 Bottle Refills:*0
9. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*84 Tablet Refills:*0
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
hold for sedation or confusion 
RX *prochlorperazine 25 mg 1 Suppository(s) rectally every six 
(6) hours Disp #*12 Suppository Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Relapsed mantle cell lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, It was a pleasure taking care of you during 
your stay at ___. You were 
admitted for pain control. We gave you medications to control 
your pain and nausea, which you will get prescriptions for at 
discharge. You got a CT scan, which showed enlargement of your 
abdominal masses. You were discharged in stable condition to 
follow up with your oncologists, with whom you can discuss your 
further treatment. 
 
Followup Instructions:
___